US06340685B1
Preparation of 4-benzyl-piperidinyl-benzimidazole-5-carboxamide
Benzimidazole-5-carboxylic acid (1.62 g, 10 mMol) was reacted with EDAC (1.92 g, 10 mMol) in 40 mL dry DMF at room temperature for 15 minutes. To the reaction mixture was added 4-benzylpiperidine (1.75 g, 10 mMol) and DMAP (˜20mg, catalyst) and the mixture was stirred at room temperature for 20 h. It was poured into water and extracted with methylene chloride (3×100 mL). The combined extract was washed with water, brine and again with water. The extract was dried over MgSO4 and evaporated. The residue was chromatographed on a column of silica gel with chloroform-methanol (0 to 5% methanol). Evaporation of the desired fractions gave 1.5 g (47%) of the product after recrystallization from ethyl acetate-hexane. 1HNMR (CDCl3): δ=7.8 (s, 1H); 7.1-7.3 (m, 8H); 4.8-4.7 (broad m, 1H), 3.7-3.9 (broad m, 1H); 3.1-2.7 (broad m, 2H); 2.55 (d, 2H); 2.0-1.1 (m, 5H). MS (ESI) m/e 319 (M+), 318 (M+-H).

reactant | Benzimidazole-5-carboxylic acid | 10 mMol, 1.62 g | N1=CNC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | EDAC | 10 mMol, 1.92 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-benzylpiperidine | 10 mMol, 1.75 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | ˜20mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-benzyl-piperidinyl-benzimidazole-5-carboxamide | 1.5 g, 47% | C(C1=CC=CC=C1)C1CCN(CC1)C=1NC2=C(N1)C=CC(=C2)C(=O)N | C20H22N4O
